US09034866B2
10-bromo-N3-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide was reacted with 1-ethynylcyclobutanol as described in General Procedure F without making critical modifications to afford 48 mg (46.2%) of 10-[2-(1-hydroxycyclobutyl)ethynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide. M+1=381.2.

reactant | 10-bromo-N3-methyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-2,3-dicarboxamide | BrC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1 | C14H13BrN4O3
reactant | 1-ethynylcyclobutanol | C(#C)C1(CCC1)O | C6H8O
product | 10-[2-(1-hydroxycyclobutyl)ethynyl]-N3-methyl-5,6-dihydroimidazo[1,2-d][1,4]benzoxazepine-2,3-dicarboxamide | 48 mg, 46.2% | OC1(CCC1)C#CC=1C=CC2=C(C=3N(CCO2)C(=C(N3)C(=O)N)C(=O)NC)C1 | C20H20N4O4
